US04816588
2-Ethylacrolein (161.5 g) is added over a two hour period to a stirred mixture of o-aminophenol (296 g, 1.0 mol) and o-nitrophenol in 37% aqeuous hydrochloric acid (296 g) at a temperature of 100° C. The reaction mixture is allowed to stir at 100° C. for two hours and is then cooled to room temperature. Methylene chloride is added to the cooled reaction mixture and the pH of the mixture is adjusted to pH 7.0 with concentrated ammonium hydroxide while stirring. The organic phase is removed and concentrated under reduced pressure. Vaccum distillation of the residue at 5 mm Hg collecting the distillate having a vapor temperature of 130° C. to 165° C. gives 3-ethyl-8-hydroxyquinoline of 93% to 98% purity as determined by assay using high performance liquid chromatograph.

reactant | 2-Ethylacrolein | 161.5 g | C(C)C(C=O)=C | C5H8O
reactant | o-aminophenol | 1.0 mol, 296 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | o-nitrophenol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydrochloric acid | 296 g | Cl | ClH
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-ethyl-8-hydroxyquinoline | C(C)C=1C=NC2=C(C=CC=C2C1)O | C11H11NO
